US07214673B2
2-Amino-5-methyl-benzonitrile
Combine 2-bromo-4-methyl-phenylamine (8.00 g, 43.0 mmol), CuCN (4.62 g, 51.6 mmol), and NMP (30.0 ml). Stir the mixture at reflux for 75 minutes then cool it to ambient temperature. Pour the mixture onto ice chips and stir for 1 hour. Remove the resulting precipitate by vacuum filtration. Dissolve the precipitate in NH4OH and extract it with dichloromethane. Combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using dichloromethane/hexanes (75:25) to give 3.39 g (60%) of an orange solid: mass spectrum (ion spray): m/z=133.1 (M+1).

reactant | 2-bromo-4-methyl-phenylamine | 43.0 mmol, 8.00 g | BrC1=C(C=CC(=C1)C)N | C7H8BrN
reactant | CuCN | 51.6 mmol, 4.62 g | C(#N)[Cu]
solvent | NMP | 30.0 ml | CN1CCCC1=O | C5H9NO
product | 2-Amino-5-methyl-benzonitrile | 3.39 g, 60% | NC1=C(C#N)C=C(C=C1)C | C8H8N2
